US06001839
3-[4-Chloro-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine-7-yl]propan-1,2-diol (0.6 g) was dissolved in 1,4-dioxane (60 ml) and concentrated aqueous ammonia (60 ml, S.G. 0.880) was added. The mixture was stirred and heated at 120° C. for 18 hours in a pressure vessel. The mixture was evaporated under reduced pressure to give a residue which was partitioned between water and ethyl acetate. The ethyl acetate layer was separated, washed with water, dried and evaporated to give a residue which was purified by flash column chromatography on silica using ethyl acetate/industrial methylated spirit (9:1) as the mobile phase to give 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propan-1,2-diol. The structure was confirmed by 1H nmr and mass spectra.

reactant | 3-[4-Chloro-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine-7-yl]propan-1,2-diol | 0.6 g | ClC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CC(CO)O | C21H18ClN3O3
reactant | ammonia | 60 ml | N | H3N
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propan-1,2-diol | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CC(CO)O | C21H20N4O3
